US05864039
4-Amino-N-(3-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-propyl)-5-chloro-2-methoxybenzamide (1.70 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.76 g) to give 4-amino-N-(1-(3-(4-amino-5-chloro-2-methoxybenzoylamino)propyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(3-(3-tert-butoxycarbonylaminomethylpyrrolidin-1-yl)-propyl)-5-chloro-2-methoxybenzamide | 1.70 g | NC1=CC(=C(C(=O)NCCCN2CC(CC2)CNC(=O)OC(C)(C)C)C=C1Cl)OC | C21H33ClN4O4
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.76 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-N-(1-(3-(4-amino-5-chloro-2-methoxybenzoylamino)propyl)pyrrolidin-3-ylmethyl)-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(C2=C(C=C(C(=C2)Cl)N)OC)=O)C=C1Cl)OC | C24H31Cl2N5O4
